US09193716B2
Step A: Ethyl 2-(2-formyl-5-methoxyphenoxy)acetate
A mixture of 2-hydroxy-4-methoxybenzaldehyde (1 g; 6.58 mmol), BrCH2CO2Et (0.806 ml; 7.24 mmol) and K2CO3 (1 g, 7.24 mmol) in anhydrous DMF (5 ml) was stirred overnight at room temperature. The mixture was diluted with EtOAc (100 ml) and H2O (100 ml). The organic layer was separated and dried over MgSO4, and filtrate evaporated, to give the product (1.29 g; 97%), as colourless solid. 1H-NMR (CDCl3) 1.28 (tr, 3H, J=7.11 Hz); 3.84 (s, 3H); 4.25 (q, 2H, J=7.14, 14.28 Hz); 4.69 (s, 2H); 6.30 (d, 1H, J=2.16 Hz); 6.58 (dd, 1H, J=1.77, 8.73 Hz); 7.83 (d, 1H, J=8.7 Hz); 10.36 (s, 1H).

reactant | 2-hydroxy-4-methoxybenzaldehyde | 6.58 mmol, 1 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | BrCH2CO2Et | 7.24 mmol, 0.806 ml | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 7.24 mmol, 1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | H2O | 100 ml | O | H2O
product | Ethyl 2-(2-formyl-5-methoxyphenoxy)acetate | C(=O)C1=C(OCC(=O)OCC)C=C(C=C1)OC | C12H14O5
